US20010056188A1
2) 3-(3,5-Dimethoxyphenylamino)-2-methanesulfonyl-3-(1,2,2-trimethylpropvlamino)propenenitrile
3-(3,5-dimethoxyphenylamino)-2-methanesulfonyl-3-methylsulfanyl-2-propenenitrile (0.263 g, 0.8 mmol) was stirred in 1,2,2-trimethylpropylamine (1 ml) for 17 h at 75° C. under nitrogen. Work-up as described in Example 17, 2) gave the title compound as a syrup, 262 mg (86%). 1H NMR (200 MHz, CDCl3): δ=0.85 (s, 9H), 1.01 (d, 3H), 3.12 (s, 3H), 3.26 (m, 1H), 3.78 (s, 6H), 6.25 (d, 2H), 6.35 (t, 1H); EI SP/MS: 381 (M+).

reactant | 3-(3,5-dimethoxyphenylamino)-2-methanesulfonyl-3-methylsulfanyl-2-propenenitrile | 0.8 mmol, 0.263 g | COC=1C=C(C=C(C1)OC)NC(=C(C#N)S(=O)(=O)C)SC | C13H16N2O4S2
reactant | 1,2,2-trimethylpropylamine | 1 ml | CC(C(C)(C)C)N | C6H15N
product | 3-(3,5-Dimethoxyphenylamino)-2-methanesulfonyl-3-(1,2,2-trimethylpropvlamino)propenenitrile | COC=1C=C(C=C(C1)OC)NC(=C(C#N)S(=O)(=O)C)NC(C(C)(C)C)C | C18H27N3O4S
